US05800733
0.6 g of triethylamine and then 0.4 g of methanesulphonyl chloride were added dropwise at -25° C. while stirring to a solution of 1.0 g of 4-(8-acryloyloxyoctyloxy)benzoic acid in 40 ml of tetrahydrofuran. The reaction mixture was stirred at -25° C. for 1 hour, then treated with 0.20 g of 4-hydroxybenzaldehyde and 0.03 g of 4-(dimethylamino)pyridine in 40 ml of tetrahydrofuran, stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of diethyl ether each time. The organic phases were combined, washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate was concentrated. Chromatographic purification of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) and two-fold recrystallization from a cyclohexane/ethyl acetate mixture (vol. 8:2) of the fractions which were pure according to thin-layer chromatography gave 0.6 g of 3,4-bis(4-[8-acryloyloxyoctyloxy]phenylcarbonyloxy)benzaldehyd; m.p. (C-I) 56° C.

reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(8-acryloyloxyoctyloxy)benzoic acid | 1.0 g | C(C=C)(=O)OCCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C18H24O5
reactant | 4-hydroxybenzaldehyde | 0.20 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3,4-bis(4-[8-acryloyloxyoctyloxy]phenylcarbonyloxy)benzaldehyd | 0.6 g | C(C=C)(=O)OCCCCCCCCOC1=CC=C(C=C1)C(=O)OC=1C=C(C=O)C=CC1OC(=O)C1=CC=C(C=C1)OCCCCCCCCOC(C=C)=O | C43H50O11
